US07544835B2
Ethyl 2-isopropoxy-3-[3-({[4-(trifluoromethyl)anilino]carbonyl}-oxy)phenyl]propanoate
Using ethyl 3-(3-hydroxyphenyl)-2-isopropoxypropanoate and α,α,α-trifluoro-p-tolylisocyanate, the title compound was obtained in the same manner as described in Example 192b).

reactant | ethyl 3-(3-hydroxyphenyl)-2-isopropoxypropanoate | OC=1C=C(C=CC1)CC(C(=O)OCC)OC(C)C | C14H20O4
reactant | α,α,α-trifluoro-p-tolylisocyanate | FC(C1=CC=C(C=C1)N=C=O)(F)F | C8H4F3NO
product | Ethyl 2-isopropoxy-3-[3-({[4-(trifluoromethyl)anilino]carbonyl}-oxy)phenyl]propanoate | C(C)(C)OC(C(=O)OCC)CC1=CC(=CC=C1)OC(=O)NC1=CC=C(C=C1)C(F)(F)F | C22H24F3NO5
